US04156738
To a stirring solution of 23.5 g (0.2 mole) 2,2-dimethylbutanoic acid in 150 ml. acetone, there is added 30 ml. triethylamine. The temperature is lowered to 0°, and 21.1 ml. (0.22 mol) ethyl chloroformate are added over one-half hour, keeping the temperature at 0°. At the end of the addition, the mixture is stirred for 15 minutes, keeping the temperature at 0°. At the end of this period, a solution of 26.0 g. (0.4 mole) sodium azide in 75 ml. of water is added over one-half hour, keeping the temperature at 0°. The resulting mixture is stirred one hour at 0°. At the end of this period, the mixture is poured into 750 ml. of ice water. This mixture is extracted 4 times with 200 ml. toluene. The toluene portions are combined and dried. The toluene solution is added dropwise to 150 ml. of toluene refluxing in a nitrogen atmosphere. After the addition is complete, the solution is heated to reflux until the IR shows the disappearance of the azide peak (about two and one-half hours). The solution is then cooled and 14.0 g. (0.2 mole) 2-aminopropionitrile are added. The resulting mixture is refluxed for 5 hours. At the end of this period, the toluene is removed at reduced pressure. The residue is put through a column of Silica AR CC7 using toluene:ethyl acetate, 80:20 as the liquid phase. The desired portions are combined and the toluene and ethyl acetate are removed under reduced pressure. The residue is recrystallized from ethyl acetate/cyclohexane to give the product, N-(1-cyanoethyl)-N'-(1,1-dimethylpropyl)urea, m.p. 129°-30°. Anal. Calcd. for C8H17N3O: C: 58.99, H: 9.35, N: 22.93; Found: C: 58.82, H: 9.13, N: 22.92.

reactant | 2,2-dimethylbutanoic acid | 0.2 mole, 23.5 g | CC(C(=O)O)(CC)C | C6H12O2
reactant | ethyl chloroformate | 0.22 mol | ClC(=O)OCC | C3H5ClO2
reactant | sodium azide | 0.4 mole | [N-]=[N+]=[N-].[Na+]
reactant | 2-aminopropionitrile | 0.2 mole | NC(C#N)C | C3H6N2
solvent | water | O | H2O
solvent | triethylamine | C(C)N(CC)CC | C6H15N
solvent | acetone | CC(=O)C | C3H6O
product | N-(1-cyanoethyl)-N'-(1,1-dimethylpropyl)urea | C(#N)C(C)NC(=O)NC(CC)(C)C | C9H17N3O
